US05155249
a) 2-Acetyl-5-trimethylsilylphenyl Methyl 1,4-Benzenedicarboxylate
Under ice-cooling, to a solution of 832 mg (4 mmol) of 2'-hydroxy-4'-trimethylsilylacetophenone in 20 ml of tetrahydrofuran were added dropwise successively, 0.61 ml (4.4 mmol) of triethylamine and 874 mg (4.4 mmol) of methyl p-chloroformylbenzoate with stirring. The mixture was stirred at room temperature for 1 day and filtered. The filtrate was evaporated and the residue was dissolved in AcOEt. The organic solution was washed with H2O, aqueous sodium bicarbonate solution and brine, dried over anhydrous Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel [eluent: n-hexane-AcOEt (5:1)] to give 1.40 g of pale yellow viscous liquid (yield 95%).

reactant | 2'-hydroxy-4'-trimethylsilylacetophenone | 4 mmol, 832 mg | OC1=C(C=CC(=C1)[Si](C)(C)C)C(C)=O | C11H16O2Si
reactant | triethylamine | 4.4 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
reactant | methyl p-chloroformylbenzoate | 4.4 mmol, 874 mg | ClC(=O)C1=CC=C(C(=O)OC)C=C1 | C9H7ClO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-Acetyl-5-trimethylsilylphenyl Methyl 1,4-Benzenedicarboxylate | 1.40 g, yield 95% | C1(=CC=C(C=C1)C(=O)OC)C(=O)OC1=C(C=CC(=C1)[Si](C)(C)C)C(C)=O | C20H22O5Si
